US06784167B2
To a 0° C. suspension of 4-fluorobenzyl triphenylphosphonium chloride (1.82 g, 4.47 mmol) in THF (20 mL) was added a solution of n-BuLi (2.5M in hexane, 1.8 mL, 4.47 mmol) and the reaction mixture was stirred for 1 h. 5-Bromothiophene-2-carbaldehyde was added, the reaction was allowed to warm to room temperature and stirred for 1 h. The resulting mixture was treated with water and extracted with Et2O. The crude product was purified by preparative TLC (30% EtOAc/hex) to give 5-[(1Z)-2-(4-fluorophenyl)vinyl]-2-bromothiophene (170 mg, 13%) as a colorless oil: 1H NMR (CDCl3) δ 6.51 (d, J=11.9 Hz, 1H), 6.59 (d, J=11.9 Hz, 1H), 6.72 (d, J=4.3 Hz, 1H), 6.85 (d, J=3.8 Hz, 1H), 7.04-7.11 (m, 2H), 7.27-7.33 (m, 2H) and 5-[(1E)-2-(4-fluorophenyl)vinyl]-2-bromothiophene (200 mg, 16%) as a white solid: 1H NMR (CDCl3) δ 6.74-6.80 (m, 2H), 6.95-7.07 (m, 4H), 7.39-7.44 (m, 2H).

reactant | 4-fluorobenzyl triphenylphosphonium chloride | 4.47 mmol, 1.82 g | [Cl-].FC1=CC=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1
reactant | n-BuLi | 4.47 mmol, 2.5M, 1.8 mL | [Li]CCCC
reactant | 5-Bromothiophene-2-carbaldehyde | BrC1=CC=C(S1)C=O | C5H3BrOS
reactant | water | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 5-[(1Z)-2-(4-fluorophenyl)vinyl]-2-bromothiophene | 170 mg, 13% | FC1=CC=C(C=C1)\C=C/C1=CC=C(S1)Br | C12H8BrFS
